### PR TITLE
finished 4.1.1 and 4.1.2

### PR DESCRIPTION
**Pull request by edegeltje**
this pr includes proofs of 4.1.1 and 4.1.2. 
it changes the requirements for `DoublingMeasure`, making the constant `NNReal`-valued.
this pr does not include changes to the blueprint. guidance on how to appropriately change it is welcome.
this pr also adds some auxilary lemmas about `DoublingMeasure`.

### CODE REVIEW

**Comment by fpvandoorn** [comment]
Could you merge master and resolve the merge conflicts?

File: Carleson/DoublingMeasure.lean [hunk 1]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
+  letI : Nonempty X := ⟨x⟩
+  have hleft : volume (ball x (2 ^ n * r)) ≠ ⊤ := by exact measure_ball_ne_top x (2 ^ n * r)
+  have hright : volume (ball x r) ≠ ⊤ := by exact measure_ball_ne_top x r
+  rw [← ENNReal.ofReal_toReal hleft,← ENNReal.ofReal_toReal hright]
+  have hfactor : (A ^n : ℝ≥0∞) ≠ ⊤ := by exact Ne.symm (ne_of_beq_false rfl)
+  rw [← ENNReal.ofReal_toReal hfactor]
+  rw [← ENNReal.ofReal_mul]
+  . simp only [ge_iff_le]
+    apply ENNReal.ofReal_le_ofReal
+    exact volume_ball_le_pow_two
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:141]: You can turn them into a one line `exact`.

File: Carleson/DoublingMeasure.lean [hunk 2]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
-      _ = A^(Nat.succ m) * volume.real (ball x r) := by rw[<- mul_assoc, pow_succ']
+      _ ≤ A * (↑(A ^ m) * volume.real (ball x r)) := by
+        apply mul_le_mul_of_nonneg_left hm (by exact zero_le_coe)
+      _ = A^(Nat.succ m) * volume.real (ball x r) := by
+        rw [NNReal.coe_pow,← mul_assoc, pow_succ']
+
+lemma volume_ball_le_pow_two' {x:X} {r:ℝ} {n : ℕ} :
+    volume (ball x (2 ^ n * r)) ≤ A ^ n * volume (ball x r) := by
+  letI : Nonempty X := ⟨x⟩
+  have hleft : volume (ball x (2 ^ n * r)) ≠ ⊤ := by exact measure_ball_ne_top x (2 ^ n * r)
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:133]:
```suggestion
  have hleft : volume (ball x (2 ^ n * r)) ≠ ⊤ := measure_ball_ne_top x (2 ^ n * r)
```

File: Carleson/DoublingMeasure.lean [hunk 3]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
+  have hright : volume (ball x r) ≠ ⊤ := by exact measure_ball_ne_top x r
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:134]:
```suggestion
  have hright : volume (ball x r) ≠ ⊤ := measure_ball_ne_top x r
```

File: Carleson/DoublingMeasure.lean [hunk 4]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
+  rw [← ENNReal.ofReal_toReal hleft,← ENNReal.ofReal_toReal hright]
+  have hfactor : (A ^n : ℝ≥0∞) ≠ ⊤ := by exact Ne.symm (ne_of_beq_false rfl)
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:136]:
```suggestion
  have hfactor : (A ^n : ℝ≥0∞) ≠ ⊤ := Ne.symm (ne_of_beq_false rfl)
```

File: Carleson/DoublingMeasure.lean [hunk 5]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
+  rw [← ENNReal.ofReal_toReal hfactor]
+  rw [← ENNReal.ofReal_mul]
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:138]:
```suggestion
  rw [← ENNReal.ofReal_toReal hfactor, ← ENNReal.ofReal_mul]
```

File: Carleson/DoublingMeasure.lean [hunk 6]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
+  . simp only [ge_iff_le]
+    apply ENNReal.ofReal_le_ofReal
+    exact volume_ball_le_pow_two
+  simp only [toReal_pow, coe_toReal, ge_iff_le, zero_le_coe, pow_nonneg]
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:142]: If it closes the goal it should be `simp` and not `simp only`.

File: Carleson/DoublingMeasure.lean [hunk 7]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
   have haux : s * r ≤ 2 ^ ⌈Real.log s / Real.log 2⌉₊ * r := by
-    sorry
+    apply mul_le_mul_of_nonneg_right _ hr
+    calc s
+      = 2 ^ (Real.logb 2 s) := (Real.rpow_logb (by linarith) (by linarith) hsp ).symm
+    _ ≤ 2 ^ (⌈Real.logb 2 s⌉₊ : ℝ) := by
+      apply Real.rpow_le_rpow_of_exponent_le (by linarith)
+      exact Nat.le_ceil (Real.logb 2 s)
+    _ = 2 ^ ⌈Real.logb 2 s⌉₊ := by
+      exact Real.rpow_natCast 2 ⌈Real.logb 2 s⌉₊
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:180]:
```suggestion
    _ = 2 ^ ⌈Real.logb 2 s⌉₊ := Real.rpow_natCast 2 ⌈Real.logb 2 s⌉₊
```

File: Carleson/DoublingMeasure.lean [hunk 8]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
+  push_neg at hr
   /-Show inclusion in larger ball-/
   have haux : s * r ≤ 2 ^ ⌈Real.log s / Real.log 2⌉₊ * r := by
-    sorry
+    apply mul_le_mul_of_nonneg_right _ hr
+    calc s
+      = 2 ^ (Real.logb 2 s) := (Real.rpow_logb (by linarith) (by linarith) hsp ).symm
+    _ ≤ 2 ^ (⌈Real.logb 2 s⌉₊ : ℝ) := by
+      apply Real.rpow_le_rpow_of_exponent_le (by linarith)
+      exact Nat.le_ceil (Real.logb 2 s)
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:178]: You can turn them into a one line `exact`

File: Carleson/DoublingMeasure.lean [hunk 9]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
+    _ = As A s * volume (ball x r) := rfl
 
-def Ad (A : ℝ) (s d : ℝ) : ℝ :=
-  As A (A * (d + s))
+lemma volume_ball_le_same (x : X) {r s r': ℝ} (hsp : 0 < s) (hs : r' ≤ s * r) :
+    volume.real (ball x r') ≤ As A s * volume.real (ball x r) := by
+  obtain hz := volume_ball_le_same' x hsp hs
+  have hbr': volume (ball x r') ≠ ⊤ := by exact measure_ball_ne_top x r'
+  have hbr: volume (ball x r) ≠ ⊤ := by exact measure_ball_ne_top x r
+  have hAs : (As A s: ℝ≥0∞) ≠ ⊤ := by exact coe_ne_top
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:197]:
```suggestion
  have hbr': volume (ball x r') ≠ ⊤ := measure_ball_ne_top x r'
  have hbr: volume (ball x r) ≠ ⊤ := measure_ball_ne_top x r
  have hAs : (As A s: ℝ≥0∞) ≠ ⊤ := coe_ne_top
```

File: Carleson/TileExistence.lean [hunk 10]
```diff
@@ -1,13 +1,433 @@
...
+import Carleson.DoublingMeasure
+import Mathlib.Data.Set.Card
+import Mathlib.Data.Real.ENatENNReal
 
 open Set MeasureTheory Metric Function Complex Bornology
 open scoped NNReal ENNReal ComplexConjugate
+
+namespace ShortVariables
+set_option hygiene false
+notation "D'" => (Real.toNNReal D)
```
Comment (fpvandoorn) [inline Carleson/TileExistence.lean:11]: Please scope the notation

File: Carleson/DoublingMeasure.lean [hunk 11]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
+  rw [← ENNReal.ofReal_toReal hbr,← ENNReal.ofReal_toReal hbr'] at hz
+  rw [← ENNReal.ofReal_toReal hAs] at hz
+  rw [← ENNReal.ofReal_mul] at hz
+  simp only [coe_toReal] at hz
+  rw [← ENNReal.ofReal_le_ofReal_iff]
+  . exact hz
+  positivity
+  simp only [coe_toReal, zero_le_coe]
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:205]: If it closes the goal it should be `simp` and not `simp only`.

File: Carleson/DoublingMeasure.lean [hunk 12]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
-  As A (A * (d + s))
+lemma volume_ball_le_same (x : X) {r s r': ℝ} (hsp : 0 < s) (hs : r' ≤ s * r) :
+    volume.real (ball x r') ≤ As A s * volume.real (ball x r) := by
+  obtain hz := volume_ball_le_same' x hsp hs
+  have hbr': volume (ball x r') ≠ ⊤ := by exact measure_ball_ne_top x r'
+  have hbr: volume (ball x r) ≠ ⊤ := by exact measure_ball_ne_top x r
+  have hAs : (As A s: ℝ≥0∞) ≠ ⊤ := by exact coe_ne_top
+  rw [← ENNReal.ofReal_toReal hbr,← ENNReal.ofReal_toReal hbr'] at hz
+  rw [← ENNReal.ofReal_toReal hAs] at hz
+  rw [← ENNReal.ofReal_mul] at hz
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:200]: You can aggregate all these lemma into a single `rw [lemmas] at hz`

File: Carleson/TileExistence.lean [hunk 13]
```diff
@@ -1,13 +1,433 @@
...
+end ShortVariables
+
 noncomputable section
 
 open scoped ShortVariables
 variable {X : Type*} {a q : ℝ} {K : X → X → ℂ} {σ₁ σ₂ : X → ℤ} {F G : Set X}
   [PseudoMetricSpace X] [ProofData a q K σ₁ σ₂ F G]
 
+lemma ball_size_induction (r:ℝ) (x:X) (j : ℕ) :
+    volume.real (ball x (2^j*r)) ≤ 2^(j*a) * volume.real (ball x r) := by
```
Comment (fpvandoorn) [inline Carleson/TileExistence.lean:22]: Isn't this `volume_ball_le_pow_two` + some rewrites?

File: Carleson/DoublingMeasure.lean [hunk 14]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
+
+
+lemma volume_ball_le_of_dist_le' {x x' : X} {r r' s d : ℝ} (hs : 0 < s) (hd : 0 < d)
+    (hsr : r' ≤ s * dist x x') (hdr : dist x x' ≤ d * r) :
+    volume (ball x' r') ≤ Ad A s d * volume (ball x r) := by
+  letI : Nonempty X := ⟨x⟩
+  calc
+    volume (ball x' r')
+      ≤ As A s * volume (ball x' (dist x x')) := by
+          apply volume_ball_le_same' x' hs hsr
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:230]: Proof term paying attention to the number of arguments of the lemma `volume_ball_le_same'`: 

```suggestion
      ≤ As A s * volume (ball x' (dist x x')) := volume_ball_le_same' x' hs hsr
```

File: Carleson/DoublingMeasure.lean [hunk 15]
```diff
@@ -81,59 +122,149 @@ lemma volume_ball_le_pow_two {x : X} {r : ℝ} {n : ℕ} :
...
+    _ ≤ As A s * volume (ball x (2 * dist x x')) := by
+      rw [ENNReal.mul_le_mul_left (As_pos' X s).ne.symm (coe_ne_top)]
+      apply MeasureTheory.measure_mono
+      rw [two_mul]
+      exact ball_subset_ball_of_le (le_refl _)
+    _ ≤ As A s * A * volume (ball x (dist x x')) := by
+      rw [mul_assoc]
+      rw [ENNReal.mul_le_mul_left (As_pos' X s).ne.symm coe_ne_top]
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:238]:
```suggestion
      rw [mul_assoc, ENNReal.mul_le_mul_left (As_pos' X s).ne.symm coe_ne_top]
```

File: Carleson/TileExistence.lean [hunk 16]
```diff
@@ -1,13 +1,433 @@
...
+        _ = 2 ^ (↑(j' + 1) * a) * volume.real (ball x r) := by
+          rw [Nat.cast_add, Nat.cast_one,right_distrib,one_mul,add_comm,
+            Real.rpow_add (by linarith),mul_assoc]
+
+section
+
+-- #synth CompatibleFunctions ℝ X _
+-- #synth Nonempty X -- should probably exist
+variable (X) in
+local instance nonempty_Space : Nonempty X := by
```
Comment (fpvandoorn) [inline Carleson/TileExistence.lean:46]: This seems useful globally, could you move it to `Defs`?

File: Carleson/DoublingMeasure.lean [hunk 17]
```diff
@@ -182,3 +313,55 @@ def NormedSpace.DoublingMeasure {𝕜 E : Type*} [NontriviallyNormedField 𝕜]
...
+end
+section
+
+instance {X:Type*} [MetricSpace X] {A:ℝ≥0}
+    [DoublingMeasure X A] : IsUnifLocDoublingMeasure (volume : Measure X) where
+  exists_measure_closedBall_le_mul'' := by
+    use A^2
+    use Set.univ
+    constructor
+    . simp only [univ_mem]
```
Comment (pitmonticone) [inline Carleson/DoublingMeasure.lean:325]:
```suggestion
    . simp [univ_mem]
```

File: Carleson/TileExistence.lean [hunk 18]
```diff
@@ -1,13 +1,433 @@
...
+--   sorry
+
+-- lemma D_eq_two_pow : D = 2 ^ (100 * a ^ 2) := by
+--   simp only [defaultD]
+
+
+example (a b c : NNReal) (hapos : 0 < a) (hle : a * b ≤ a * c) : b ≤ c := by
+  exact le_of_mul_le_mul_of_pos_left hle hapos
+
+lemma le_of_mul_le_mul_of_finpos_left {a b c : ENNReal} (hapos : 0 < a) (hafin : a < ⊤) (hle : a * b ≤ a * c): b ≤ c := by
```
Comment (fpvandoorn) [inline Carleson/TileExistence.lean:72]: [`ENNReal.mul_le_mul_left`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/ENNReal/Operations.html#ENNReal.mul_le_mul_left)

File: Carleson/TileExistence.lean [hunk 19]
```diff
@@ -1,13 +1,433 @@
...
+  rw [ENNReal.toNNReal_le_toNNReal]
+  . exact hle
+  . obtain hanetop := hafin.ne
+    exact ENNReal.mul_ne_top hanetop hb
+  . obtain hanetop := hafin.ne
+    exact ENNReal.mul_ne_top hanetop hc
+
+-- example (g : ℝ ) (z : ℤ) : g ^ z = g ^(z : ℝ) := by exact?
+
+lemma D_ge_one : 1 ≤ D := by
```
Comment (fpvandoorn) [inline Carleson/TileExistence.lean:98]: please also move to `Defs`.

File: Carleson/TileExistence.lean [hunk 20]
```diff
@@ -1,13 +1,433 @@
...
+-- #synth Nonempty X -- should probably exist
+variable (X) in
+local instance nonempty_Space : Nonempty X := by
+  obtain ⟨x,_⟩ := ‹ProofData a q K σ₁ σ₂ F G›.cf.eq_zero
+  use x
+end
+
+
+lemma volume_closedBall_finite (r : ℝ) (x : X) : volume (closedBall x r) < ⊤ := by
+  exact measure_closedBall_lt_top
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:53]:
```suggestion
lemma volume_closedBall_finite (r : ℝ) (x : X) : volume (closedBall x r) < ⊤ := measure_closedBall_lt_top
```

File: Carleson/TileExistence.lean [hunk 21]
```diff
@@ -1,13 +1,433 @@
...
+
+lemma volume_ball_finite (r : ℝ) (x : X) : volume (ball x r) < ⊤ := by
+  exact measure_ball_lt_top
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:56]:
```suggestion
lemma volume_ball_finite (r : ℝ) (x : X) : volume (ball x r) < ⊤ := measure_ball_lt_top
```

File: Carleson/TileExistence.lean [hunk 22]
```diff
@@ -1,13 +1,433 @@
...
+
+lemma volume_ntrivial_closedball_pos (r : ℝ) (hr: 0 < r) (x : X) : 0 < volume (closedBall x r) := by
+  exact measure_closedBall_pos volume x hr
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:59]:
```suggestion
lemma volume_ntrivial_closedball_pos (r : ℝ) (hr: 0 < r) (x : X) : 0 < volume (closedBall x r) := measure_closedBall_pos volume x hr
```

File: Carleson/TileExistence.lean [hunk 23]
```diff
@@ -1,13 +1,433 @@
...
+-- lemma finite_disjoint_balls (r r2 : ℝ) (hr2 : 0 < r2) (x : X) (Y : Set X) (hY : Y ⊆ ball x r)
+--     (hdisjoint : Y.PairwiseDisjoint (fun y ↦ ball y r2)): Y.Finite := by
+--   sorry
+
+-- lemma D_eq_two_pow : D = 2 ^ (100 * a ^ 2) := by
+--   simp only [defaultD]
+
+
+example (a b c : NNReal) (hapos : 0 < a) (hle : a * b ≤ a * c) : b ≤ c := by
+  exact le_of_mul_le_mul_of_pos_left hle hapos
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:70]:
```suggestion
example (a b c : NNReal) (hapos : 0 < a) (hle : a * b ≤ a * c) : b ≤ c := le_of_mul_le_mul_of_pos_left hle hapos
```

File: Carleson/TileExistence.lean [hunk 24]
```diff
@@ -1,13 +1,433 @@
...
+    . exact l.right
+    . obtain r := r.left
+      rw [r] at hafin
+      contradiction
+  intro hb hc
+  have hapos' : (0 < a.toNNReal) := by
+    exact ENNReal.toNNReal_pos_iff.mpr (And.intro hapos hafin)
+  apply le_of_mul_le_mul_of_pos_left _ hapos'
+  rw [← ENNReal.toNNReal_mul,← ENNReal.toNNReal_mul]
+  rw [ENNReal.toNNReal_le_toNNReal]
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:89]:
```suggestion
  rw [← ENNReal.toNNReal_mul,← ENNReal.toNNReal_mul, ENNReal.toNNReal_le_toNNReal]
```

File: Carleson/TileExistence.lean [hunk 25]
```diff
@@ -1,13 +1,433 @@
...
+    (hg : Summable g) :
+    ∑' (n : ι), f n ≤ ∑' (n : ι), g n := by
+  have : Summable f := by
+    apply hg.of_nonneg_of_le hf hfg
+  apply tsum_mono this hg
+  exact hfg
+
+-- #synth MeasurableSingletonClass X
+
+def dist_closure (Y :Set X) : Set X := ⋃ y ∈ Y, closedBall y 0
```
Comment (fpvandoorn) [inline Carleson/TileExistence.lean:150]: I think this is [`Metric.cthickening`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Thickening.html#Metric.cthickening). But feel free to leave it as-is if you prefer (maybe add a comment).

File: Carleson/TileExistence.lean [hunk 26]
```diff
@@ -1,13 +1,433 @@
...
+    simp only [top_le_iff] at hle
+    rw [ENNReal.mul_eq_top] at hle
+    obtain l|r := hle
+    . exact l.right
+    . obtain r := r.left
+      rw [r] at hafin
+      contradiction
+  intro hb hc
+  have hapos' : (0 < a.toNNReal) := by
+    exact ENNReal.toNNReal_pos_iff.mpr (And.intro hapos hafin)
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:86]:
```suggestion
  have hapos' : (0 < a.toNNReal) := ENNReal.toNNReal_pos_iff.mpr (And.intro hapos hafin)
```

File: Carleson/TileExistence.lean [hunk 27]
```diff
@@ -1,13 +1,433 @@
...
+
+
+example (a b c : NNReal) (hapos : 0 < a) (hle : a * b ≤ a * c) : b ≤ c := by
+  exact le_of_mul_le_mul_of_pos_left hle hapos
+
+lemma le_of_mul_le_mul_of_finpos_left {a b c : ENNReal} (hapos : 0 < a) (hafin : a < ⊤) (hle : a * b ≤ a * c): b ≤ c := by
+  refine ENNReal.le_of_top_imp_top_of_toNNReal_le ?h ?h_nnreal
+  . intro hb
+    rw [hb] at hle
+    rw [ENNReal.mul_top hapos.ne.symm] at hle
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:76]:
```suggestion
    rw [hb, ENNReal.mul_top hapos.ne.symm] at hle
```

File: Carleson/TileExistence.lean [hunk 28]
```diff
@@ -1,13 +1,433 @@
...
+      rw [mul_assoc]
+      apply mul_le_mul_of_nonneg_left _ (by norm_num)
+      simp_rw [← Real.rpow_intCast]
+      rw [← Real.rpow_add (defaultD_pos a)]
+      apply Real.rpow_le_rpow_of_exponent_le (D_ge_one)
+      simp only [Int.cast_mul, Int.cast_ofNat]
+      rw [two_mul,add_assoc]
+      simp only [le_add_iff_nonneg_right]
+      rw [← sub_self (↑S),sub_eq_add_neg]
+      apply add_le_add_left hk_lower
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:135]:
```suggestion
      exact add_le_add_left hk_lower
```

File: Carleson/TileExistence.lean [hunk 29]
```diff
@@ -1,13 +1,433 @@
...
+
+section
+
+lemma tsum_le_tsum_of_nonneg {ι : Type*} (f : ι → ℝ) (g : ι → ℝ)
+    (hf : ∀ i, 0 ≤ f i) (hfg : ∀ i, f i ≤ g i)
+    (hg : Summable g) :
+    ∑' (n : ι), f n ≤ ∑' (n : ι), g n := by
+  have : Summable f := by
+    apply hg.of_nonneg_of_le hf hfg
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:144]: Proof term, but check the number of arguments (additional `_` might be needed).

```suggestion
  have : Summable f := hg.of_nonneg_of_le hf hfg
```

File: Carleson/TileExistence.lean [hunk 30]
```diff
@@ -1,13 +1,433 @@
...
+  apply tsum_mono this hg
+  exact hfg
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:146]: Can be turned into a one line `exact` (again, paying attention to the number of arguments).

File: Carleson/TileExistence.lean [hunk 31]
```diff
@@ -1,13 +1,433 @@
...
+  simp only [mem_iUnion, mem_closedBall, exists_prop]
+  apply exists_congr
+  intro y
+  simp only [and_congr_right_iff]
+  intro _
+  constructor
+  . intro hxy
+    apply le_antisymm hxy dist_nonneg
+  . intro hxy
+    exact hxy.le
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:164]:
```suggestion
  . exact fun hxy => hxy.le
```

File: Carleson/TileExistence.lean [hunk 32]
```diff
@@ -1,13 +1,433 @@
...
+    simp only [Int.cast_mul, Int.cast_ofNat]
+  . norm_num
+  norm_num
+
+
+-- example (k : ℝ) (y : X) : volume (ball y (8 * D ^(2 * S) * D^k)) ≤ (8 * D'^(2 * S)) ^ a
+
+lemma counting_balls (k : ℝ) (hk_lower : -S ≤ k) (Y : Set X) (hY : Y ⊆ ball o (4*D^S-D^k))
+    (hYdisjoint: Y.PairwiseDisjoint (fun y ↦ ball y (D^k))) :
+    (Set.encard Y).toENNReal ≤ (As (2 ^ a) (2 ^ J' X)) := by
```
Comment (fpvandoorn) [inline Carleson/TileExistence.lean:273]: Could you define the constant `C4_1_1` to be `As (2 ^ a) (2 ^ J' X)` and use that constant in the statement? I try to keep constants out of the statement as much as possible.

File: Carleson/TileExistence.lean [hunk 33]
```diff
@@ -1,13 +1,433 @@
...
+lemma mem_dist_closure_iff (Y : Set X) (x : X) : x ∈ dist_closure Y ↔ ∃ y ∈ Y, dist x y = 0 := by
+  dsimp only [dist_closure]
+  simp only [mem_iUnion, mem_closedBall, exists_prop]
+  apply exists_congr
+  intro y
+  simp only [and_congr_right_iff]
+  intro _
+  constructor
+  . intro hxy
+    apply le_antisymm hxy dist_nonneg
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:162]: Check number of arguments and add `_` accordingly after `dist_nonneg `

```suggestion
  . exact fun hxy => le_antisymm hxy dist_nonneg
```

File: Carleson/TileExistence.lean [hunk 34]
```diff
@@ -1,13 +1,433 @@
...
+  specialize hY hy
+  simp only [mem_ball] at hY ⊢
+  calc
+    dist z x  ≤ dist z y + dist y x := dist_triangle z y x
+    _ = dist y x := by rw [hyz,zero_add]
+    _ < r := hY
+
+
+lemma dist_closure_isClosed_of_fin {Y : Set X} (hY: Y.Finite) : IsClosed (dist_closure Y) := by
+  exact Finite.isClosed_biUnion hY (fun y _ => isClosed_ball)
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:187]:
```suggestion
lemma dist_closure_isClosed_of_fin {Y : Set X} (hY: Y.Finite) : IsClosed (dist_closure Y) := Finite.isClosed_biUnion hY (fun y _ => isClosed_ball)
```

File: Carleson/TileExistence.lean [hunk 35]
```diff
@@ -1,13 +1,433 @@
...
+
+-- lemma dist_closure_le_closedBall_of_le_closedBall (x:X) (r : ℝ) (y : Set Y) (hy : )
+lemma dist_closure_measurable_of_fin {Y : Set X} (hY : Y.Finite) : MeasurableSet (dist_closure Y) := by
+  exact (dist_closure_isClosed_of_fin hY).measurableSet
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:191]:
```suggestion
lemma dist_closure_measurable_of_fin {Y : Set X} (hY : Y.Finite) : MeasurableSet (dist_closure Y) := (dist_closure_isClosed_of_fin hY).measurableSet
```

File: Carleson/TileExistence.lean [hunk 36]
```diff
@@ -1,13 +1,433 @@
...
+  have : Infinite s := by exact infinite_coe_iff.mpr hfin
+  rw [ENNReal.tsum_const_eq_top_of_ne_zero (by norm_num)]
+  rw [Set.encard_eq_top_iff.mpr hfin]
+  simp only [ENat.toENNReal_top]
+
+lemma tsum_const_eq' {α : Type*} (s : Set α) (c : ℝ≥0∞) :
+    ∑' (_:s), (c : ℝ≥0∞) = s.encard * c := by
+  nth_rw 1 [← one_mul c]
+  rw [ENNReal.tsum_mul_right]
+  rw [tsum_one_eq']
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:232]:
```suggestion
  rw [ENNReal.tsum_mul_right, tsum_one_eq']
```

File: Carleson/TileExistence.lean [hunk 37]
```diff
@@ -1,13 +1,433 @@
...
+  simp only [Real.toNNReal_ofNat]
+  norm_num
+  rw [NNReal.rpow_add,mul_assoc (2 * (S : ℝ )), mul_comm (2 * (S : ℝ))]
+  congr 1
+  . norm_num
+  . rw [NNReal.rpow_mul]
+    refine NNReal.eq ?_
+    simp only [NNReal.coe_rpow, NNReal.coe_ofNat, NNReal.coe_zpow]
+    rw [← Real.rpow_intCast]
+    simp only [Int.cast_mul, Int.cast_ofNat]
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:264]:
```suggestion
    simp [Int.cast_mul, Int.cast_ofNat]
```

File: Carleson/TileExistence.lean [hunk 38]
```diff
@@ -1,13 +1,433 @@
...
+      refine zpow_pos_of_pos ?ha S
+      apply Real.rpow_pos_of_pos
+      linarith
+    have volume_finite : volume (ball o (4 * D^S)) < ⊤ :=
+      volume_ball_finite (4 * D ^ S) o
+    apply le_of_mul_le_mul_of_finpos_left volume_pos volume_finite
+    rw [mul_comm,mul_comm (volume _)]
+    exact this
+  have val_ne_zero : (As (2 ^ a) (2 ^ J' X):ℝ≥0∞) ≠ 0 := by
+    exact (As_pos' X (2 ^J' X)).ne.symm
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:288]:
```suggestion
  have val_ne_zero : (As (2 ^ a) (2 ^ J' X):ℝ≥0∞) ≠ 0 := (As_pos' X (2 ^J' X)).ne.symm
```

File: Carleson/TileExistence.lean (hunk 32 above)
Comment (fpvandoorn) [reply Carleson/TileExistence.lean:273]: In the blueprint, it is definitely intended that `k : Nat`. Was it easier for you to assume `k : Real`? Feel free to keep it as-is, but we may change it in the future.

File: Carleson/TileExistence.lean [hunk 39]
```diff
@@ -1,13 +1,433 @@
...
+      exact hc.left
+    . intro x hx y hy
+      simp only [mem_iUnion, exists_prop] at hx hy
+      obtain ⟨sx,hsx, hsx'⟩ := hx
+      obtain ⟨sy,hsy, hsy'⟩ := hy
+      obtain hxy|hyx := hchain.total hsx hsy
+      . specialize hxy hsx'
+        specialize hc hsy
+        simp only [mem_setOf_eq] at hc
+        apply hc.right hxy hsy'
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:364]:
```suggestion
        exact hc.right hxy hsy'
```

**Review by fpvandoorn — COMMENTED** [review]
This is great! Thanks! I have some comments, but I'm also to merge this even if you don't address all the comments.

File: Carleson/TileExistence.lean [hunk 40]
```diff
@@ -1,13 +1,433 @@
...
+variable (X) in
+def zorn_apply_maximal_set (k : ℝ):
+    ∃ s ∈ property_set X k, ∀ s' ∈ property_set X k, s ⊆ s' → s' = s :=
+  zorn_subset (property_set X k) (chain_property_set_has_bound X k)
+
+variable (X) in
+def Yk (k : ℝ): Set X := (zorn_apply_maximal_set X k).choose
+
+lemma Yk_pairwise (k:ℝ) : (Yk X k).PairwiseDisjoint (fun (y:X) ↦ ball y (D^k)) := by
+  exact (zorn_apply_maximal_set X k).choose_spec.left.right
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:380]:
```suggestion
lemma Yk_pairwise (k:ℝ) : (Yk X k).PairwiseDisjoint (fun (y:X) ↦ ball y (D^k)) := (zorn_apply_maximal_set X k).choose_spec.left.right
```

File: Carleson/TileExistence.lean [hunk 41]
```diff
@@ -1,13 +1,433 @@
...
+
+lemma Yk_subset (k:ℝ) : Yk X k ⊆ ball o (4 * D^S - D^k) := by
+  exact (zorn_apply_maximal_set X k).choose_spec.left.left
```
Comment (pitmonticone) [inline Carleson/TileExistence.lean:383]:
```suggestion
lemma Yk_subset (k:ℝ) : Yk X k ⊆ ball o (4 * D^S - D^k) := (zorn_apply_maximal_set X k).choose_spec.left.left
```

**Comment by pitmonticone** [comment]
Hi @edegeltje, I have partially reviewed this PR just to practice reviewing PRs.

Feel free to ignore my comments and suggestions.

File: Carleson/TileExistence.lean (hunk 32 above)
Comment (edegeltje) [reply Carleson/TileExistence.lean:273]: i only really read the proof, and there the only context is that it is assumed that -S <= k <= S. from there (and the context of working with balls and whatnot) i just assumed that these must be `Real`s... if it's more convenient to have it changed, i will.

File: Carleson/DoublingMeasure.lean (hunk 6 above)
Comment (edegeltje) [reply Carleson/DoublingMeasure.lean:142]: i was under the impression that using `simp only` in general improves portability, and that it also improves compilation time because lean doesn't need to search all `simp` lemmas for applicable theorems. at the very least, it shouldn't be harmful...

Comment (fpvandoorn) [reply Carleson/DoublingMeasure.lean:142]: @edegeltje You are correct. I already mentioned this to Pietro privately.
